2126-07-25 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CXR showed new pulmonary edema
   -ABG 7.42/35/70/23
   -Neurology said could not evaluate her in current delirious state;
   recommended geodon instead of haldol because less extrapyramidal side
   effects in the elderly
   -Still hypertensive
   -UA showed proteinuria, rare bacteria, negative WBC
   -Family confirmed full code status and gave consent for [**Female First Name (un) 231**]
   -Will need [**Female First Name (un) 231**] tomorrow
   -Agitated overnight and required 0.5mg haldol with good effect. QTc 463
   (baseline 388). Have PRN haldol order in with QTc monitoring on tele.
   -Poor urine output in evening (20 cc/hour since 5pm); bolused 250cc,
   still no improvement; CXR from afternoon showed mod-severe pulmonary
   edema. gave 10mg IV lasix (suspicion for diastolic dysfunction in light
   of HTN, despite EF>55%)
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-24**] 02:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2126-7-24**] 12:10 PM
   Haloperidol (Haldol) - [**2126-7-25**] 04:50 AM
   Morphine Sulfate - [**2126-7-25**] 04:50 AM
   Furosemide (Lasix) - [**2126-7-25**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-25**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 65 (63 - 107) bpm
   BP: 159/68(87) {118/51(76) - 159/101(105)} mmHg
   RR: 20 (19 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,855 mL
                                                                  1,370 mL
   PO:
             TF:
   IVF:
                                                                  2,855 mL
                                                                  1,370 mL
   Blood products:
   Total out:
                                                                    623 mL
                                                                    276 mL
   Urine:
                                                                    623 mL
                                                                    276 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,232 mL
                                                                  1,094 mL
   Respiratory support
   O2 Delivery Device: Bipap mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 91 (91 - 703) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.36/41/44//-1
   Ve: 6.7 L/min
   PaO2 / FiO2: 44
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   341 K/uL
   13.3 g/dL
   146 mg/dL
   2.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   31 mg/dL
   103 mEq/L
   135 mEq/L
   41.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2126-7-24**]  06:20 AM
                             [**2126-7-24**]  12:42 PM
                             [**2126-7-24**]  06:00 PM
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
   WBC
   14.7
   Hct
   41.6
   Plt
   341
   Cr
   2.7
   TropT
   0.02
   TCO2
   23
   26
   24
   Glucose
   178
   176
   146
   Other labs: PT / PTT / INR:12.2/27.8/1.0, CK / CKMB /
   Troponin-T:58//0.02, ALT / AST:45/37, Alk Phos / T Bili:134/0.3,
   Differential-Neuts:88.2 %, Lymph:7.1 %, Mono:3.2 %, Eos:1.1 %, Lactic
   Acid:1.5 mmol/L, Albumin:4.0 g/dL, LDH:326 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech.
   #Hypoxic respiratory failure:  Patient dropped O2 sats early this
   morning, placed on BiPAP, but persistently hypoxic.  Intubated at 7 am
   for hypoxic respiratory failure.
   -continue to wean FiO2 prn
   -place A-line
   -continue Levaquin for possible infection.
   -CXR shows severe pulmonary edema
   -thoracentesis today, d/w ID
   .
   # Delirium/Encephalopathy: Patient demonstrating acute delirium. CT neg
   for any acute intra-cranial process. Etiology unclear though possible
   explanation include infection, metabolic derangement, or medication
   effect. Notably, pt did receive small dose of lorazepam at midnight.
   - electrolytes, CBC/diff, LFTs
   - blood cxs and urine cxs - UA negative
   - cxr as above
   - haldol for agitation initially - changed to Geodon per neuro recs
   - f/u neurology recs - recommend MRI when possible
   .
   #  Hypertension: Pressures currently 170-180 systolic which is within
   patient's baseline range. Renal U/S's in past have not demonstrated
   RAS.
   - pressures reduced after arrival to ICU, now 120's after intubation
   - Cont Metoprolol, Imdur, Hydralazine, Amlodipine
   - Check ECG to assess for ischemic changes
   - f/u final read head CT
   .
   # Bilateral Pleural Effusions: Possible etiologies include heart
   failure exacerbation though no pt does not appear volume overloaded
   otherwise. Also considering malignant effusion given recent weight loss
   and known thyroid nodule. No e/o PNA on admission CXR.
   -Thoracentesis today
   -now intubated
   -follow CXR's
   .
   # Thyroid nodule - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample. Nodule appeared benign [**2124-12-22**].
   -Outpatient follow up
   .
   # Chronic renal insufficiency: Cr currently at baseline.
   - avoid nephrotoxins
   - renally dose all meds
   .
   # Type 2 diabetes: ISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2126-7-24**] 03:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-07-25 09:50:00 Physician Attending Progress Note
Chief Complaint: Hypretensive urgency, pleural effusion, respiratory
   failure, delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increasing dyspnea, work-of-breathing
   24 Hour Events:
   Intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-24**] 02:00 PM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Labetalol - 3 mg/min
   Other ICU medications:
   Hydralazine - [**2126-7-24**] 12:10 PM
   Haloperidol (Haldol) - [**2126-7-25**] 04:50 AM
   Morphine Sulfate - [**2126-7-25**] 04:50 AM
   Furosemide (Lasix) - [**2126-7-25**] 06:20 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: No(t) Tube feeds
   Respiratory: mechanical ventilation
   Pain: [**11-23**] Minimal
   Flowsheet Data as of  [**2126-7-25**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 60 (60 - 107) bpm
   BP: 117/54(66) {95/51(66) - 159/101(105)} mmHg
   RR: 14 (14 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,855 mL
                                                                  1,501 mL
   PO:
             TF:
   IVF:
                                                                  2,855 mL
                                                                  1,501 mL
   Blood products:
   Total out:
                                                                    623 mL
                                                                    336 mL
   Urine:
                                                                    623 mL
                                                                    336 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,232 mL
                                                                  1,165 mL
   Respiratory support
   O2 Delivery Device: Bipap mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 91 (91 - 703) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.35/41/210//-2
   Ve: 6.7 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   341 K/uL
   146 mg/dL
   2.7 mg/dL
   21 mEq/L
   4.2 mEq/L
   31 mg/dL
   103 mEq/L
   135 mEq/L
   41.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2126-7-24**]  06:20 AM
                             [**2126-7-24**]  12:42 PM
                             [**2126-7-24**]  06:00 PM
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
                             [**2126-7-25**]  09:15 AM
   WBC
   14.7
   Hct
   41.6
   Plt
   341
   Cr
   2.7
   TropT
   0.02
   TCO2
   23
   26
   24
   24
   Glucose
   178
   176
   146
   Other labs: PT / PTT / INR:12.2/27.8/1.0, CK / CKMB /
   Troponin-T:58//0.02, ALT / AST:45/37, Alk Phos / T Bili:134/0.3,
   Differential-Neuts:88.2 %, Lymph:7.1 %, Mono:3.2 %, Eos:1.1 %, Lactic
   Acid:1.5 mmol/L, Albumin:4.0 g/dL, LDH:326 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   This is a 77 yo female with hypertensive urency, delerium, now
   respiratory failyure
   .
   # Delirium/Encephalopathy: Now intubated on propofol.  Haldol prn.  MRI
   head.
   #  Respiratory Failure: Now intubated - suspect volume overload.
   Diuresis as tolerated.  Will continue levaquin for ?VAP.
   .
   # Bilateral Pleural Effusions: Will tap R-sided effusion today
   # Chronic renal insufficiency: likely contributed to CHF [**Doctor First Name **] with
   diastolic CHF
   .
   # Hypertension: Can place NGT and start giving oral meds as well.  On
   labetolol gtt.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2126-7-25**] 08:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  famotif\dine
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-07-26 07:04:00 Physician Resident Progress Note
Chief Complaint: This is a 77 yo female with h/o resistant htn, r
   subclavian stensosis who p/w HA, HTN, and new hypoxia who developed
   question of hypertensive urgency and transferred to MICU for concern of
   hypertensive urgency given new dysarthric speech.
   24 Hour Events:
 EEG - At [**2126-7-25**] 03:20 PM
   -neuro would like sbp 160-180
   -labetolol and hydral d/ced
   -started lasix gtt and also bolused diuril c bp holding parameters, UOP
   improving, Blood pressures holding in 160s as of 11p
   -got head MRI, read pending
   -for tomorrow need to discuss [**First Name11 (Name Pattern1) 231**] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] and could also consider
   placing aline.
   -continued to give geodon, rather than haldol
   -checked EKG, which looked like qtc at upper limit of normal (but it's
   not a great ekg). would continue daily ekgs
   -OGT placed, placement confirmed by cxr
   -Cr bumped from 3.1 to 3.7 so lasix was d/ced at ~1am.
   -started back on hydralazine with nitro patch for BP control.
   -apneic on SBP this am
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-25**] 02:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-7-25**] 08:00 PM
   Hydralazine - [**2126-7-26**] 06:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-26**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 59 (47 - 65) bpm
   BP: 180/42(78) {95/35(56) - 180/73(87)} mmHg
   RR: 14 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 54.8 kg
             Total In:
                                                                  2,413 mL
                                                                    142 mL
   PO:
             TF:
   IVF:
                                                                  2,413 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                  1,100 mL
   Urine:
                                                                  1,169 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                   -958 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 91 (91 - 91) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.35/41/210/22/-2
   Ve: 5.8 L/min
   PaO2 / FiO2: 420
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   10.4 g/dL
   95 mg/dL
   4.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   42 mg/dL
   102 mEq/L
   137 mEq/L
   33.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-7-24**]  06:20 AM
                             [**2126-7-24**]  12:42 PM
                             [**2126-7-24**]  06:00 PM
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
                             [**2126-7-25**]  09:15 AM
                             [**2126-7-25**]  09:20 AM
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
   WBC
   14.7
   8.2
   9.2
   Hct
   41.6
   32.6
   33.3
   Plt
   [**Telephone/Fax (3) 8041**]
   Cr
   2.7
   3.1
   3.7
   4.0
   TropT
   0.02
   TCO2
   23
   26
   24
   24
   Glucose
   178
   176
   146
   461
   94
   95
   Other labs: PT / PTT / INR:12.1/26.2/1.0, CK / CKMB /
   Troponin-T:287//0.02, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:388/10, Differential-Neuts:88.2 %, Lymph:7.1 %,
   Mono:3.2 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:9.2 mg/dL, Mg++:3.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech.
   #Hypoxic respiratory failure:  Intubated yesterday morning for hypoxic
   respiratory failure.
   -A-line placement attempted yesterday, unsuccessful.  [**Month (only) 11**] try again
   today.
   -continue Levaquin for possible infection.
   -CXR shows severe pulmonary edema
   -lighten sedation
   .
   #Acute Embolic Strokes in Post Circ:
   -check TTE
   -carotid u/s
   -let pressures run high
   -d/w neuro: should we anticoagulate
   .
   # Acute on chronic renal failure: Cr increased yesterday on Lasix
   drip.
   - Lasix held for now.
   - Continue to follow urine output, trend creatinine.
   - Ideally would like to continue diuresis, but will need to follow
   creatinine and be aware of renal effects.
   -consult renal
   .
   # Delirium/Encephalopathy: Patient demonstrating acute delirium. CT neg
   for any acute intra-cranial process. Etiology unclear though possible
   explanation include infection, metabolic derangement, or medication
   effect.  Currently sedated and intubated, but going forward will treat
   as needed with Geodon instead of Haldol, per neurology recs.
   - electrolytes, CBC/diff, LFTs
   - blood cxs and urine cxs - UA negative
   - f/u neurology recs
   -MRI shows embolic strokes
   -decrease sedation (will start c dc fentanyl)
   -recheck EKG for qtc prolongation
   .
   #  Hypertension: Pressures 170-180 systolic, then 120
   post-intubation, back to 160-170 overnight.
   - pressures below goal  yesterday after intubation, but in goal range
   overnight.  Will continue to keep BP in 160
s range.
   - all antihypertensives currently dc
   - MRI to evaluate for possible PRES, as above.
   .
   # Bilateral Pleural Effusions: Possible etiologies include heart
   failure exacerbation though no pt does not appear volume overloaded
   otherwise. Also considering malignant effusion given recent weight loss
   and known thyroid nodule. No e/o PNA on admission CXR.
   -consider [**Female First Name (un) 231**]
   -now intubated
   -follow CXR's
   .
   # Thyroid nodule - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample. Nodule appeared benign [**2124-12-22**].
   -Outpatient follow up
   .
   # Type 2 diabetes: ISS
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2126-7-25**] 08:27 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2126-07-26 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Delerium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Cr up to 4.0 after diuresis.
   BP controlled on on nitropaste and hydralazine
   MRI head done yesterday - read pending
   Apneic with SBT
   24 Hour Events:
 EEG - At [**2126-7-25**] 03:20 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-25**] 02:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-7-25**] 08:00 PM
   Hydralazine - [**2126-7-26**] 06:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-26**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 63 (47 - 63) bpm
   BP: 157/35(66) {115/31(56) - 180/60(81)} mmHg
   RR: 14 (11 - 16) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 54.8 kg
             Total In:
                                                                  2,413 mL
                                                                    179 mL
   PO:
             TF:
   IVF:
                                                                  2,413 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,169 mL
                                                                  1,360 mL
   Urine:
                                                                  1,169 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,244 mL
                                                                 -1,181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.35/41/210/22/-2
   Ve: 6.2 L/min
   PaO2 / FiO2: 420
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   267 K/uL
   95 mg/dL
   4.0 mg/dL
   22 mEq/L
   3.8 mEq/L
   42 mg/dL
   102 mEq/L
   137 mEq/L
   33.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-7-24**]  06:20 AM
                             [**2126-7-24**]  12:42 PM
                             [**2126-7-24**]  06:00 PM
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
                             [**2126-7-25**]  09:15 AM
                             [**2126-7-25**]  09:20 AM
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
   WBC
   14.7
   8.2
   9.2
   Hct
   41.6
   32.6
   33.3
   Plt
   [**Telephone/Fax (3) 8041**]
   Cr
   2.7
   3.1
   3.7
   4.0
   TropT
   0.02
   TCO2
   23
   26
   24
   24
   Glucose
   178
   176
   146
   461
   94
   95
   Other labs: PT / PTT / INR:12.1/26.2/1.0, CK / CKMB /
   Troponin-T:287//0.02, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:388/10, Differential-Neuts:88.2 %, Lymph:7.1 %,
   Mono:3.2 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:9.2 mg/dL, Mg++:3.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   This is a 77 yo female with hypertensive urency, delerium, now
   respiratory failyure
   # Delirium/Encephalopathy: Now intubated on propofol.  Haldol prn. F/U
   MRI head just returned as c/w multiple acute infarct.  Will ask neuro
   to consult.  Will aslo get TTE, carotid dopplers.
   #  Respiratory Failure: Diuresed overnight - but Cr now bumped.  Apneic
   with SBT this AM.  But now more alert - can retry with lightening of
   sedation.  Wean Fentanyl.
   # Bilateral Pleural Effusions: Holding off on thoracentesis for the
   moment.
   # Chronic renal insufficiency: Cr now higher with diuresis - will stop
   diuretics for now.  Will ask Dr. [**Last Name (STitle) 8048**] who follows her as an oupt to
   see her
   # Hypertension: will let pressure run higher given MRI findings
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2126-7-25**] 08:27 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2126-07-27 07:15:00 Physician Resident Progress Note
Chief Complaint: This is a 77 yo female with h/o resistant htn, r
   subclavian stensosis who p/w HA, HTN, and new hypoxia who developed
   question of hypertensive urgency and transferred to MICU for concern of
   hypertensive urgency given new dysarthric speech.  MRI showed multiple
   new small infarcts, likely from proximal embolic source.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2126-7-26**] 12:38 PM
   head and neck MR
   multiple studies performed...
   echo - No ASD or left ventricular thrombus seen. Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Moderate pulmonary hypertension.
   EF>55%
   carotid duplex - read pending
   renal US - no hydro, 2 cysts in left kidney, will need further followup
   as outpatient.  Bilateral pleural effusions seen
   MRI/MRA - absence of L vertebral artery (known subclavian stenosis),
   also massive left thyroid lobe displacing trachea.  However, no
   evidence of aneurysmal dilation or focal occlusion.
   MRI head -   no evidence for PRES
   1. Multifocal punctate regions of restricted diffusion in a pattern
   suggestive of a proximal source.
   2. No characteristic features for PRES.
   3. Changes of advanced small vessel disease with old embolic infarcts
   as well
   as punctate regions of susceptibility artifact, perhaps relating to
   microbleeds are again noted.
   pressures 190's: started hydral 5mg IV q6 - pressures reduced somewhat
   but remaining high
   ABG at midnight 7.40/42/111
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-26**] 02:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-26**] 10:15 AM
   Heparin Sodium (Prophylaxis) - [**2126-7-26**] 08:28 PM
   Hydralazine - [**2126-7-27**] 02:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 70 (58 - 73) bpm
   BP: 177/44(77) {136/31(58) - 193/66(89)} mmHg
   RR: 14 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 55.1 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                    864 mL
                                                                     91 mL
   PO:
             TF:
   IVF:
                                                                    501 mL
                                                                     91 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    660 mL
   Urine:
                                                                  3,120 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,256 mL
                                                                   -569 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.40/42/111/26/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 222
   Physical Examination
   Intubated, sedated, minimally responsive.
   Pupils constricted but reactive to light, left pupil post-surgical
   Lungs with good apical air movement bilaterally, coarse rales and
   decreased air at the bases.
   RRR, 2/6 systolic murmur.
   Abdomen soft, non-tender, non-distended, +BS
   Trace pedal edema, 2+ pedal pulses.
   Labs / Radiology
   267 K/uL
   10.4 g/dL
   85 mg/dL
   4.2 mg/dL
   26 mEq/L
   3.0 mEq/L
   46 mg/dL
   100 mEq/L
   138 mEq/L
   33.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2126-7-24**]  12:42 PM
                             [**2126-7-24**]  06:00 PM
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
                             [**2126-7-25**]  09:15 AM
                             [**2126-7-25**]  09:20 AM
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
                             [**2126-7-26**]  11:51 PM
                             [**2126-7-27**]  12:15 AM
   WBC
   8.2
   9.2
   Hct
   32.6
   33.3
   Plt
   277
   267
   Cr
   3.1
   3.7
   4.0
   4.2
   TCO2
   23
   26
   24
   24
   27
   Glucose
   176
   146
   461
   94
   95
   85
   Other labs: PT / PTT / INR:12.1/26.2/1.0, CK / CKMB /
   Troponin-T:287//0.02, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:388/10, Differential-Neuts:88.2 %, Lymph:7.1 %,
   Mono:3.2 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.8 mg/dL, Mg++:3.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech.
   #Hypoxic respiratory failure:  Intubated [**7-25**] for hypoxic respiratory
   failure.
   -A-line placement attempted [**7-25**], unsuccessful.  Have not re-attempted
   yet.
   -continuing Levaquin for possible infection, add vancomycin.
   -will get sputum culture today.
   -CPAP trial.
   -ABG from overnight
 stable.
   -CXR shows severe pulmonary edema, bilateral effusions seen on renal
   US.
   -continue trying to lighten sedation.
   -CT chest today, non-contrast, to further evaluate effusions and
   thyroid mass.
   .
   #Acute Embolic Strokes in Post Circ:  newly aware this morning, MRI
   read up now.
   -TTE - No ASD or left ventricular thrombus seen. Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Moderate pulmonary hypertension.
   EF>55%
   -carotid u/s - read pending
 will follow up.
   -allow pressures to run high - goal 160's.  Pressures ran mostly in
   170's-180's overnight.  Needs better control.
   -Now with NG tube
 will re-start home BP regimen.  Follow pressures
   closely.
   -neuro recs appreciated.
   .
   # Acute on chronic renal failure: Cr increased on Lasix drip, which was
   stopped - although she continued to autodiurese off Lasix.   Creatinine
   remains elevated above baseline.
   - Lasix held for now with good autodiuresis.
   - Continue to follow urine output, trend creatinine.
   -Renal US showed no evidence of hydronephrosis.
   .
   # Delirium/Encephalopathy: Patient demonstrating acute delirium. CT neg
   for any acute intra-cranial process. Etiology unclear though possible
   explanations include infection, metabolic derangement, or medication
   effect.  Currently sedated and intubated, but going forward will treat
   as needed with Geodon instead of Haldol, per neurology recs.
   - electrolytes, CBC/diff, LFTs
   - blood cxs and urine cxs - UA negative
   - f/u neurology recs
   -MRI shows embolic strokes
   -decrease sedation (will start c dc fentanyl)
   -recheck EKG for qtc prolongation
   .
   # Thyroid enlargement - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample. Nodule appeared benign [**2124-12-22**].
   -CT today to further evaluate.
   .
   # Type 2 diabetes: ISS
   #FEN
 nutrition consult, plan to start tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2126-7-25**] 08:27 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Agree with plan to obtain CT chest to better define effusions. She may
   need therapeutic bronchoscopy today / tomorrow if secretions continue
   to be purulent. We will broaden coverage to include staph/ VAP
   associated pathogens for the short term. She is diuresing well with
   PEEP, even without lasix.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2126-7-27**] 18:23 ------

2126-07-28 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2126-7-27**] 01:36 PM
   -secretions appear to be pna-->broadened to vanc, levaquin
   -CT chest: Large bilateral pleural effusions with lower lobe
   compressive atelectasis. The aerated lungs are clear.
   -Negative 600 at 9pm; autodiuresing; goal is 1 liter negative/day
   -Switched to PO meds- amlodipine and metoprolol; also with IV hydral on
   board, but still with SBP to 180's
   -No new renal recs
   -Tube feeds started. Nutren renal with 20g beneprotein at 25cc/hr;
   kitchen closed at 3, so continued on regular nutren for now; will
   restart on renal formulation tomorrow
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-27**] 03:18 PM
   Vancomycin - [**2126-7-27**] 05:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-27**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2126-7-27**] 08:49 PM
   Hydralazine - [**2126-7-28**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-28**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 67 (62 - 73) bpm
   BP: 153/49(74) {148/35(66) - 185/63(90)} mmHg
   RR: 14 (11 - 14) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                    819 mL
                                                                    223 mL
   PO:
             TF:
                                                                     34 mL
                                                                    137 mL
   IVF:
                                                                    665 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    465 mL
   Urine:
                                                                  1,690 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -871 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 650) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   11.2 g/dL
   138 mg/dL
   3.8 mg/dL
   24 mEq/L
   3.8 mEq/L
   49 mg/dL
   99 mEq/L
   132 mEq/L
   32.9 %
   10.4 K/uL
        [image002.jpg]
                             [**2126-7-25**]  05:23 AM
                             [**2126-7-25**]  05:39 AM
                             [**2126-7-25**]  09:15 AM
                             [**2126-7-25**]  09:20 AM
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
                             [**2126-7-26**]  11:51 PM
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
   WBC
   8.2
   9.2
   8.7
   10.4
   Hct
   32.6
   33.3
   33.4
   32.9
   Plt
   277
   267
   259
   280
   Cr
   3.1
   3.7
   4.0
   4.2
   4.2
   3.8
   TCO2
   26
   24
   24
   27
   Glucose
   146
   461
   94
   95
   85
   83
   138
   Other labs: PT / PTT / INR:12.9/31.9/1.1, CK / CKMB /
   Troponin-T:287//0.02, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:388/10, Differential-Neuts:88.2 %, Lymph:7.1 %,
   Mono:3.2 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.6 mg/dL, Mg++:2.8 mg/dL, PO4:4.6 mg/dL
   Imaging: CT chest [**7-27**]: Large bilateral pleural effusions with lower
   lobe compressive atelectasis. The
   aerated lungs are clear.
   Diffuse enlargement of the left lobe of the thyroid has been recently
   investigated in [**2126-5-22**], with recommendations made then.
   Diffuse aortic and mild coronary artery calcification.
   Microbiology: GRAM STAIN (Final [**2126-7-28**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
    Culture pending
   BCx pending
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech found to have multiple embolic strokes.
    #Hypoxic respiratory failure:  Intubated [**7-25**] for hypoxic respiratory
   failure.
   -A-line placement attempted [**7-25**], unsuccessful.  Have not re-attempted
   yet.
   -continuing Levaquin for possible infection, add vancomycin.
   -will get sputum culture today.
   -CXR shows severe pulmonary edema, bilateral effusions seen on renal
   US.
   -continue trying to lighten sedation.
   -CT chest today, non-contrast, to further evaluate effusions and
   thyroid mass.
   .
   #Acute Embolic Strokes in Post Circ:  newly aware 2 days ago, MRI read
   up now.
   -TTE - No ASD or left ventricular thrombus seen. Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Moderate pulmonary hypertension.
   EF>55%
   -carotid u/s - read pending
 will follow up.
   -allow pressures to run high - goal 160's.  Pressures ran mostly in
   170's-180's overnight.  Needs better control.
   -Now with NG tube
 will re-start home BP regimen.  Follow pressures
   closely.
   -neuro recs appreciated.
   .
   # Acute on chronic renal failure: Cr increased on Lasix drip, which was
   stopped - although she continued to autodiurese off Lasix.   Creatinine
   remains elevated above baseline.
   - Lasix held for now with good autodiuresis.
   - Continue to follow urine output, trend creatinine.
   -Renal US showed no evidence of hydronephrosis.
   .
   # Delirium/Encephalopathy: Patient demonstrating acute delirium. CT neg
   for any acute intra-cranial process. Etiology unclear though possible
   explanations include infection, metabolic derangement, or medication
   effect.  Currently sedated and intubated, but going forward will treat
   as needed with Geodon instead of Haldol, per neurology recs.
   - electrolytes, CBC/diff, LFTs
   - blood cxs and urine cxs - UA negative
   - f/u neurology recs
   -MRI shows embolic strokes
   -decrease sedation (will start c dc fentanyl)
   -recheck EKG for qtc prolongation
   .
   # Thyroid enlargement - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample. Nodule appeared benign [**2124-12-22**].
   -CT today to further evaluate.
   .
   # Type 2 diabetes: ISS
   #FEN
 nutrition consult, plan to start tube feeds. need to switch to
   renal formula today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-7-27**] 08:37 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-07-29 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2126-7-28**] 04:30 PM
   rash over abd and back, blanching c/w drug rash. d/ced hydral and also
   holding vanc (trough of 14) and switched famotidine to lansoprazole ...
   not sure if we want to continue holding vanc as pt does have GPCs and
   GNRs in sputum. Also ? AIN [**12-24**] lasix
   -[**Female First Name (un) 231**] drained 1.3L, looks transudative, cytology and cultures pending
   -neg 1.3 liters @ midnight
   -no new culture data (just gram stain of sputum c GPCs and GNRs)
   -need to order special tube feeds before 1pm tomorrow: Nutren renal
   with 20g beneprotein at 25cc/hr
   -continued to have borderline temps of 99-100
   -no new neuro recs
   -no new renal recs
   -EKG s QT prolongation, some new mildly concerning st segment changes,
   perhaps suggesting some demand?
   -BP in 170s, switched metop to TID
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2126-7-27**] 05:00 PM
   Levofloxacin - [**2126-7-28**] 03:18 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-28**] 10:22 AM
   Hydralazine - [**2126-7-28**] 09:48 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-28**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 71 (61 - 74) bpm
   BP: 180/58(84) {132/36(63) - 180/66(87)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,165 mL
                                                                    257 mL
   PO:
             TF:
                                                                    573 mL
                                                                    169 mL
   IVF:
                                                                    472 mL
                                                                     88 mL
   Blood products:
   Total out:
                                                                  2,610 mL
                                                                    445 mL
   Urine:
                                                                  1,310 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
                                                                  1,300 mL
   Balance:
                                                                 -1,445 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   271 K/uL
   10.1 g/dL
   139 mg/dL
   3.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   51 mg/dL
   105 mEq/L
   139 mEq/L
   31.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2126-7-25**]  09:15 AM
                             [**2126-7-25**]  09:20 AM
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
                             [**2126-7-26**]  11:51 PM
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
                             [**2126-7-28**]  05:27 PM
                             [**2126-7-29**]  04:23 AM
   WBC
   8.2
   9.2
   8.7
   10.4
   9.9
   Hct
   32.6
   33.3
   33.4
   32.9
   31.0
   Plt
   277
   267
   259
   280
   271
   Cr
   3.1
   3.7
   4.0
   4.2
   4.2
   3.8
   4.0
   3.7
   TropT
   0.11
   0.08
   TCO2
   24
   27
   Glucose
   461
   94
   95
   85
   83
   138
   156
   139
   Other labs: PT / PTT / INR:12.5/32.6/1.1, CK / CKMB /
   Troponin-T:129/3/0.08, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:388/10, Differential-Neuts:88.2 %, Lymph:7.1 %,
   Mono:3.2 %, Eos:1.1 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.3 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: pleural fluid: alb 1.2, LDH90, glucose 158
   660WBC, 20RBCs, 43PMNs, 5Lymphs, 5Meso, 8Macro
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech found to have multiple embolic strokes.
    #Hypoxic respiratory failure:  Intubated [**7-25**] for hypoxic respiratory
   failure. Etiology of resp failure most likely [**12-24**] volume overload,
   cannot r/o pna, now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] on R c ? pna in the right base.
   -levaquin day [**4-28**] for ?pna. had added vanc but this was d/ced yesterday
   for ?drug rash. For today will d/c levaquin and add aztreonam pending
   neg cultures. Will also add vanc back for gram positive coverage.
   -f/u sputum cx, nothing growing yet
   -send another sputum as lots of secretions today
   -[**Female First Name (un) 231**] yesterday c/w transudate
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] cytology
   - psv trial today
   -lasix could also be responsible for drug rash so will hold on lasix
   for now
   -hold tube feeds @ midnight for ? extubation tomorrow
   .
   #Acute Embolic Strokes in Post Circ:  newly aware 3 days ago, MRI read
   up now.
   -TTE - No ASD or left ventricular thrombus seen. Mild symmetric left
   ventricular hypertrophy with preserved global and regional
   biventricular systolic function. Moderate pulmonary hypertension.
   EF>55%
   -carotid u/s - read pending
 will follow up.
   -allow pressures to run high - goal 140-160s.  Pressures ran mostly in
   160-170's overnight.
   -neuro recs appreciated.
   .
   #Hypertension: goal SPBs 140-160s currently
   -metoprolol [**Hospital1 **] increased to TID
   -continue amlodipine
   -hydral d/ced for ?drug rash
   -will add home imdur back
   .
   # Acute on chronic renal failure: Creatinine remains elevated above
   baseline, but not actively rising. likely prerenal versus AIN versus
   both
   -urine eos
   -check peripheral diff
   - Continue to follow urine output, trend creatinine c [**Hospital1 **] lytes
   -holding hydral, famotidine, levoquin and lasix for ?AIN.
   -Renal US showed no evidence of hydronephrosis.
   -check daily lytes
   .
   # Delirium/Encephalopathy: Patient demonstrating acute delirium. CT neg
   for any acute intra-cranial process. Etiology unclear though possible
   explanations include infection, metabolic derangement, or medication
   effect.  Currently sedated and intubated, but going forward will treat
   as needed with Geodon prn instead of Haldol, per neurology recs. Likely
   this was [**12-24**] hypertensive urgency and/or strokes
   -continue to f/u electrolytes and cultures
   - f/u neurology recs
   -MRI shows embolic strokes
   -fentanyl off
   -sedation c propofol
   -geodon prn (QTc not prolonged on [**7-28**])
   .
   #? drug rash
   --holding hydral, famotidine, levoquin and lasix for ?drug rash
   -switched famotidine to lansoprazole
   -switched levoquin to aztreonam
   .
   # ? Sm amt demand ischemia versus NSTEMI:
   -EKG ordered to check qtc on [**7-28**] noted to have 1mm st depressions in
   lateral leads, checked cardiac enzymes which showed trop 0.11
0.08 and
   CK 191
129 MB neg.
   .
   # lipemic blood specimen: added on lipid panel
   .
   # Thyroid enlargement - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample. Nodule appeared benign [**2124-12-22**].
   -outpt f/u
   .
   # Type 2 diabetes: ISS
   #FEN
 nutrition consult, plan to start tube feeds. need to switch to
   renal formula today
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-7-28**] 11:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had a large volume thoracentesis without difficulty and has
   also had improving UO. Creatine slightly up and new rash noted ( ?
   quinolone). She has a small infiltrate at right base ( ? re-expansion
   edema) but no drastic change in secretion output. We will transition to
   CPAP/ PSV today and hope that mental status will improve over next 24
   hours to attempt extubation if secretions do not preclude. We will also
   switch to aztreonam for coverage of VAP and avoid quinolones on account
   of rash. Urine eos pending.
   Patient is ill
   Total time:35 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2126-7-29**] 18:49 ------

2126-07-30 06:35:00 Physician Resident Progress Note
Chief Complaint: This is a 77 yo female with h/o resistant htn, r
   subclavian stensosis who p/w HA, HTN, and new hypoxia who developed
   question of hypertensive urgency and transferred to MICU for concern of
   hypertensive urgency given new dysarthric speech found to have multiple
   embolic strokes.
   24 Hour Events:
   -rash still present on morning exam yesterday, slightly improved.
   -x-ray shows new consolidaion in R base, previously collapsed before
   thoracentesis.
   -switched to PSV, ABG 7.43/37/191, FiO2 changed from 50 to 40
   -started clonidine 0.1 [**Hospital1 **]. renal fellow in agreement.
   - unable to wean sedation, pt did not tolerate boluses. ended up
   restarting fentanyl and midaz gtts
   - + eos and eosinophilia. unclear if hydral or lasix. mentioned to
   renal fellow who agreed with watching. emailed [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **]-->fellow
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] will be by in am
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-28**] 03:18 PM
   Vancomycin - [**2126-7-29**] 03:08 PM
   Aztreonam - [**2126-7-30**] 12:26 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2126-7-29**] 06:55 PM
   Midazolam (Versed) - [**2126-7-29**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-30**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.6
   HR: 62 (59 - 76) bpm
   BP: 125/48(68) {117/43(62) - 194/77(96)} mmHg
   RR: 12 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.5 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,294 mL
                                                                    124 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    634 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    245 mL
   Urine:
                                                                  1,000 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 369 (329 - 448) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.43/37/191/23/1
   Ve: 7 L/min
   PaO2 / FiO2: 478
   Physical Examination
   Intubated, sedated, minimally responsive.
   Pupils pinpoint, but equal, reactive to light.
   Lungs with good air movement bilaterally, decreased at bases
   RRR, with diffuse systolic murmur/bruit heard throughout the
   chest/abdomen.  Unchanged.
   Abdomen soft, non-tender, non-distended.  Persistent erythematous
   maculopapular rash of bilateral lower quadrants.
   No pedal edema, 2+ pedal pulses
   Labs / Radiology
   262 K/uL
   9.7 g/dL
   115 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   50 mg/dL
   106 mEq/L
   140 mEq/L
   31.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
                             [**2126-7-26**]  11:51 PM
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
                             [**2126-7-28**]  05:27 PM
                             [**2126-7-29**]  04:23 AM
                             [**2126-7-29**]  04:19 PM
                             [**2126-7-30**]  02:11 AM
   WBC
   9.2
   8.7
   10.4
   9.9
   10.9
   Hct
   33.3
   33.4
   32.9
   31.0
   31.7
   Plt
   [**Telephone/Fax (3) 8156**]71
   262
   Cr
   3.7
   4.0
   4.2
   4.2
   3.8
   4.0
   3.7
   3.4
   TropT
   0.11
   0.08
   TCO2
   27
   25
   Glucose
   94
   95
   85
   83
   138
   156
   139
   115
   Other labs: PT / PTT / INR:12.5/32.6/1.1, CK / CKMB /
   Troponin-T:129/3/0.08, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:44/14, Differential-Neuts:78.9 %, Lymph:7.0 %,
   Mono:9.5 %, Eos:4.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech found to have multiple embolic strokes.
    #Hypoxic respiratory failure:  Intubated [**7-25**] for hypoxic respiratory
   failure. Etiology of resp failure most likely [**12-24**] volume overload,
   cannot r/o pna, now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**], with new infiltrate in R base.
   Infiltrate waxing and [**Doctor Last Name 282**], likely [**12-24**] fluid.
   -Will d/c aztreonam and vancomycin b/c infiltrate looks more consistent
   with fluid.
   -f/u sputum cx, nothing growing yet
   -another sputum sent yesterday.
   -[**Female First Name (un) 231**] 2 days ago c/w transudate
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] cytology
   - psv trial yesterday - tolerated well.  Will attempt extubation
   -lasix could also be responsible for drug rash so will continue to hold
   on lasix for now
   .
   #Acute Embolic Strokes in Post Circ:  newly aware 4 days ago, MRI read
   up now.
   -TTE - Not revealing for source. Mild symmetric left ventricular
   hypertrophy with preserved global and regional biventricular systolic
   function. Moderate pulmonary hypertension.
   -carotid u/s - read shows stenosis <59% b/l
   -allow pressures to run high - goal 140-160s.  Pressures ran mostly in
   goal overnight, with one episode of relative hypotension.  [**Name2 (NI) **] get
   pressures from leg b/c not consistent in arms.
   -neuro recs appreciated.
   .
   #Hypertension: goal SPBs 140-160s currently
   -metoprolol now [**Hospital1 **]
   -continue amlodipine for now; will stop if less than 140
s to 160
   -hydral d/ced for ?drug rash
   -clonidine started yesterday (ImDur had been written, but DC-ed as it
   cannot be given per NGT).
   -holding ACEi for renal failure
   .
   # Acute on chronic renal failure: Creatinine remains elevated above
   baseline, but not actively rising. likely prerenal versus AIN versus
   both
   -urine eos yesterday positive, with peripheral eosinophilia.  Renal not
   convinced this is AIN b/c only 4.4%, but plan to spin urine today.
   - creatinine now trending down.  Continue to follow UOP and trend
   creatinine.
   -holding hydral, famotidine, levoquin and lasix for ?AIN.
   -Renal US showed no evidence of hydronephrosis.
   -continue to follow daily lytes.
   .
   # Delirium/Encephalopathy: Difficult to assess mental status while
   intubated, but she was agitated and confused prior to intubation, and
   has been agitated when sedation weaned on vent.  Attempted to wean and
   use only bolus fentanyl/midaz last night, but she became too agitated,
   so she was changed to a fent/versed drip.  Will attempt to wean today,
   for possible extubation.
   -continue to f/u electrolytes and cultures
   - f/u neurology recs
   -Geodon if needed, avoid Haldol per neuro recs.
   .
   #? drug rash - as above.
   --holding hydral, famotidine, levoquin and lasix for ?drug rash
   -switched famotidine to lansoprazole
   -switched levaquin to aztreonam
   .
   # lipemic blood specimen: added on lipid panel
 values other than
   triglycerides WNL.  Propofol DC-ed as per yesterday
s note. Lipase
   normal.
   .
   # Thyroid enlargement - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample.  Large thyroid mass seen on imaging.  Nodule
   appeared benign [**2124-12-22**].
   -will need further workup when more stable,
   .
   # Type 2 diabetes: ISS
   #FEN
 nutrition consult, plan to start tube feeds. need to switch to
   renal formula today
   ```````````````````````````````````````````````````````````````````````
   ```````````````````````````````````````````````````````````````````````
   ```````````````````````````````````````````````````````````````````````
   ``````````````````````````````````
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  will speak with son, [**Name (NI) 738**], today
   Code status: Full code
   Disposition:ICU ; possibly to floors tomorrow if successful extubation

2126-07-30 14:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Delerium, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Switched to PSV
   New [** 5286**] on back and abdomen
   24 Hour Events:
   RSBI 90 this AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   [** **];
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-28**] 03:18 PM
   Vancomycin - [**2126-7-29**] 03:08 PM
   Aztreonam - [**2126-7-30**] 12:26 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2126-7-29**] 06:55 PM
   Midazolam (Versed) - [**2126-7-29**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-30**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Integumentary (skin): [**Year (4 digits) **]
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-30**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 66 (58 - 76) bpm
   BP: 94/74(78) {94/43(62) - 184/74(95)} mmHg
   RR: 23 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.5 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,294 mL
                                                                    263 mL
   PO:
             TF:
                                                                    600 mL
   IVF:
                                                                    634 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    466 mL
   Urine:
                                                                  1,000 mL
                                                                    366 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    294 mL
                                                                   -203 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 343 (329 - 448) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.43/37/191/23/1
   Ve: 6.9 L/min
   PaO2 / FiO2: 478
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
                                  9.7 g/dL
   262 K/uL
   115 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   50 mg/dL
   106 mEq/L
   140 mEq/L
   31.7 %
   10.9 K/uL
                             [**2126-7-25**]  11:10 PM
                             [**2126-7-26**]  02:59 AM
                             [**2126-7-26**]  11:51 PM
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
                             [**2126-7-28**]  05:27 PM
                             [**2126-7-29**]  04:23 AM
                             [**2126-7-29**]  04:19 PM
                             [**2126-7-30**]  02:11 AM
   WBC
   9.2
   8.7
   10.4
   9.9
   10.9
   Hct
   33.3
   33.4
   32.9
   31.0
   31.7
   Plt
   [**Telephone/Fax (3) 8156**]71
   262
   Cr
   3.7
   4.0
   4.2
   4.2
   3.8
   4.0
   3.7
   3.4
   TropT
   0.11
   0.08
   TCO2
   27
   25
   Glucose
   94
   95
   85
   83
   138
   156
   139
   115
   Other labs: PT / PTT / INR:12.5/32.6/1.1, CK / CKMB /
   Troponin-T:129/3/0.08, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:44/14, Differential-Neuts:78.9 %, Lymph:7.0 %,
   Mono:9.5 %, Eos:4.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech found to have multiple embolic strokes.
    #Hypoxic respiratory failure:  MS status much better today with RSBI
   less than 100.  WIll do SBT and aim to extubate.  Getting aztreonam -
   but now with [**Last Name (LF) 5286**], [**First Name3 (LF) 116**] D/C.  s/p thoracentesis on right.  f/u all
   cultures.  Aim for fluid goal even.
   #Acute Embolic Strokes in Post Circ:  no source by TEE. Does not high
   grade carotid stenosis by ultrasound.
   #Hypertension: goal SPBs 140-160s.   Will restart BP meds - clonidine
   and beta blocker to start - and follow
   # Acute on chronic renal failure: Cr trending down.  D/Cing
   antiobiotics, hydral.  Eos in urine.  Renal consulting
   # Delirium/Encephalopathy: MS appears better currently, but difficult
   to tell while intubated
   #[**First Name3 (LF) **]: as above.
   --holding hydral, famotidine, levoquin and lasix for ?drug [**First Name3 (LF) 5286**]
   #Thyroid Mass: Workup on hold for moment - will need to readdress after
   resolution of critical illness
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: holding for possible extubation
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2126-07-31 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-7-30**] 12:48 PM
   -BP poorly controlled despite metoprolol 5mg IV Q4, IV enalopril, and
   clonidine patch. Started on a labetalol drip with goal BP's in 140's to
   160's... Will likely restart on previous regimen when able to take PO
   and cleared by S&S
   -d/c'ed vanco and aztreonam
   - Negative 300cc at 10pm. (goal was even to -500cc)
   - spoke with son re: progress
   - renal recs, neuro recs:
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-28**] 03:18 PM
   Vancomycin - [**2126-7-29**] 03:08 PM
   Aztreonam - [**2126-7-30**] 12:26 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2126-7-30**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-30**] 08:00 PM
   Metoprolol - [**2126-7-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-31**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 72 (58 - 77) bpm
   BP: 160/53(79) {94/40(64) - 189/74(94)} mmHg
   RR: 27 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.5 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                    462 mL
                                                                    115 mL
   PO:
             TF:
   IVF:
                                                                    372 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    866 mL
                                                                    203 mL
   Urine:
                                                                    766 mL
                                                                    203 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -404 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.37/44/110/21/0
   Ve: 6.9 L/min
   PaO2 / FiO2: 275
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   281 K/uL
   9.1 g/dL
   91 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   59 mg/dL
   108 mEq/L
   143 mEq/L
   29.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
                             [**2126-7-28**]  05:27 PM
                             [**2126-7-29**]  04:23 AM
                             [**2126-7-29**]  04:19 PM
                             [**2126-7-30**]  02:11 AM
                             [**2126-7-30**]  12:34 PM
                             [**2126-7-30**]  03:26 PM
                             [**2126-7-31**]  03:00 AM
   WBC
   8.7
   10.4
   9.9
   10.9
   9.5
   Hct
   33.4
   32.9
   31.0
   31.7
   29.5
   Plt
   259
   280
   271
   262
   281
   Cr
   4.2
   3.8
   4.0
   3.7
   3.4
   3.4
   3.3
   TropT
   0.11
   0.08
   TCO2
   27
   25
   26
   Glucose
   83
   138
   156
   139
   115
   109
   91
   Other labs: PT / PTT / INR:12.9/35.6/1.1, CK / CKMB /
   Troponin-T:129/3/0.08, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:44/14, Differential-Neuts:78.9 %, Lymph:7.0 %,
   Mono:9.5 %, Eos:4.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 DELIRIUM / CONFUSION
   This is a 77 yo female with h/o resistant htn, r subclavian stensosis
   who p/w HA, HTN, and new hypoxia who developed question of hypertensive
   urgency and transferred to MICU for concern of hypertensive urgency
   given new dysarthric speech found to have multiple embolic strokes.
    #Hypoxic respiratory failure:  Intubated [**7-25**] for hypoxic respiratory
   failure. Etiology of resp failure most likely [**12-24**] volume overload,
   cannot r/o pna, now s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**], with new infiltrate in R base.
   Infiltrate waxing and [**Doctor Last Name 282**], likely [**12-24**] fluid.
   -extubated yesterday
   -Will d/c aztreonam and vancomycin b/c infiltrate looks more consistent
   with fluid.
   -f/u sputum cx, nothing growing yet
   -another sputum sent yesterday.
   -[**Female First Name (un) 231**] 3 days ago c/w transudate
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 231**] cytology
   -lasix could also be responsible for drug rash so will continue to hold
   on lasix for now.
   #Acute Embolic Strokes in Post Circ:  newly aware 4 days ago, MRI read
   up now.
   -TTE - Not revealing for source. Mild symmetric left ventricular
   hypertrophy with preserved global and regional biventricular systolic
   function. Moderate pulmonary hypertension.
   -carotid u/s - read shows stenosis <59% b/l
   -allow pressures to run high - goal 140-160s.  Pressures ran mostly in
   goal overnight, with one episode of relative hypotension.  [**Name2 (NI) **] get
   pressures from leg b/c not consistent in arms.
   -neuro recs appreciated.
   .
   #Hypertension: goal SPBs 140-160s currently
   -s/p extubation. unable to take PO meds
   -currently on labetolol gtt and clonidine patch (tried metop IV,
   enalapril IV and clonidine patch but BPs still elevated)
   -will restart on home regimen once cleared by S&S
   .
   # Acute on chronic renal failure: Creatinine remains elevated above
   baseline, but not actively rising. likely prerenal versus AIN versus
   both
   -urine eos yesterday positive, with peripheral eosinophilia.  Renal not
   convinced this is AIN b/c only 4.4%, but plan to spin urine today.
   - creatinine now trending down.  Continue to follow UOP and trend
   creatinine.
   -holding hydral, famotidine, levoquin and lasix for ?AIN.
   -Renal US showed no evidence of hydronephrosis.
   -continue to follow daily lytes.
   .
   # Delirium/Encephalopathy: agitated and delerius on admission to ICU
   -continue to f/u electrolytes and cultures
   - f/u neurology recs
   -appears to be much clearer
   -Geodon if needed, avoid Haldol per neuro recs.
   .
   #? drug rash - as above.
   -holding hydral, famotidine, and lasix for ?drug rash
   -switched famotidine to lansoprazole
   -all antibiotics off
   .
   # lipemic blood specimen: added on lipid panel
 values other than
   triglycerides WNL.  Propofol DC-ed as per yesterday
s note. Lipase
   normal.
   .
   # Thyroid enlargement - most recent FNA [**2126-7-3**] inconclusive due to
   insufficient sample.  Large thyroid mass seen on imaging.  Nodule
   appeared benign [**2124-12-22**].
   -will need further workup when more stable,
   .
   # Type 2 diabetes: ISS
    #FEN
 nutrition consult, plan to start tube feeds. need to switch to
   renal formula today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2126-07-31 10:45:00 Physician Attending Progress Note
Chief Complaint: Hypertensive urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   Remains hypertensive - now on clonidine patch, briefly on labetolol
   drip
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2126-7-30**] 12:48 PM
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Penicillins
   Unknown;
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2126-7-28**] 03:18 PM
   Vancomycin - [**2126-7-29**] 03:08 PM
   Aztreonam - [**2126-7-30**] 12:26 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2126-7-30**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-30**] 08:00 PM
   Metoprolol - [**2126-7-31**] 07:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-31**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.3
   HR: 74 (65 - 77) bpm
   BP: 169/66(89) {137/36(64) - 189/72(94)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.5 kg (admission): 54.8 kg
   Height: 60 Inch
             Total In:
                                                                    462 mL
                                                                    148 mL
   PO:
             TF:
   IVF:
                                                                    372 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    866 mL
                                                                    375 mL
   Urine:
                                                                    766 mL
                                                                    375 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -404 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.37/44/110/21/0
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: No(t) Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
                                  9.1 g/dL
   281 K/uL
   91 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.9 mEq/L
   59 mg/dL
   108 mEq/L
   143 mEq/L
   29.5 %
   9.5 K/uL
                             [**2126-7-27**]  12:15 AM
                             [**2126-7-27**]  02:22 PM
                             [**2126-7-28**]  03:31 AM
                             [**2126-7-28**]  05:27 PM
                             [**2126-7-29**]  04:23 AM
                             [**2126-7-29**]  04:19 PM
                             [**2126-7-30**]  02:11 AM
                             [**2126-7-30**]  12:34 PM
                             [**2126-7-30**]  03:26 PM
                             [**2126-7-31**]  03:00 AM
   WBC
   8.7
   10.4
   9.9
   10.9
   9.5
   Hct
   33.4
   32.9
   31.0
   31.7
   29.5
   Plt
   259
   280
   271
   262
   281
   Cr
   4.2
   3.8
   4.0
   3.7
   3.4
   3.4
   3.3
   TropT
   0.11
   0.08
   TCO2
   27
   25
   26
   Glucose
   83
   138
   156
   139
   115
   109
   91
   Other labs: PT / PTT / INR:12.9/35.6/1.1, CK / CKMB /
   Troponin-T:129/3/0.08, ALT / AST:28/33, Alk Phos / T Bili:103/0.3,
   Amylase / Lipase:44/14, Differential-Neuts:78.9 %, Lymph:7.0 %,
   Mono:9.5 %, Eos:4.4 %, Lactic Acid:1.5 mmol/L, Albumin:3.1 g/dL,
   LDH:276 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   77 yo female with h/o resistant htn, r subclavian stensosis who p/w HA,
   HTN, and new hypoxia who developed question of hypertensive urgency and
   transferred to MICU for concern of hypertensive urgency given new
   dysarthric speech found to have multiple embolic strokes.
   #Acute Embolic Strokes in Post Circ:  ASA
   #Hypertension: goal SPBs 140-160s.   Cont clonidine patch, uptitrate
   metoprolol and enalapril
   # Acute on chronic renal failure: Cr holding steady
   # Delirium: Much improved but still slightly confused
   #Rash: improving
   Remainder of issues per ICU resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-27**] 01:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor after speec and swallow eval
   Total time spent: